US09428528B2
Step 1 Preparation of tert-butyl ((6-bromothiazolo[5,4-b]pyridin-2-yl)methyl)carbamate
To a solution 6-bromo-2-(bromomethyl)thiazolo[5,4-b]pyridine (800 mg, 2.60 mmol) (Journal of Medicinal Chemistry, 53(10), 3927-3936; 2010) in tetrahydrofuran (10 mL) is added ammonium hydroxide (2 mL) and stirred at room temperature for 16 hours. Reaction is concentrated, diluted with water (5 mL) and extracted using ethyl acetate (3×10 ml). Extracts are dried over Na2SO4 and concentrated to get crude product (650 mg). m/z (CI) M+244. To a solution of crude amine (350 mg, 1.43 mmol) in tetrahydrofuran (10 mL) and aqueous NaHCO3 (2 mL) is added boc anhydride and resulting mixture stirred at room temperature for over night. Organic solution is separated and aqueous layer extracted with ethyl acetate (5 mL). Combined organic solution is dried over Na2SO4 and concentrated under vacuum to give the title compound (400 mg): 1H NMR (400 MHz, CDCl3) 1.50 (s, 9H), 4.74 (d, 2H), 8.36 (s, 1H), 8.62 (s, 1H). m/z (CI) M+2 346.

reactant | 6-bromo-2-(bromomethyl)thiazolo[5,4-b]pyridine | 2.60 mmol, 800 mg | BrC=1C=C2C(=NC1)SC(=N2)CBr | C7H4Br2N2S
reactant | ammonium hydroxide | 2 mL | [OH-].[NH4+]
reactant | boc anhydride | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
product | tert-butyl ((6-bromothiazolo[5,4-b]pyridin-2-yl)methyl)carbamate | 400 mg | BrC=1C=C2C(=NC1)SC(=N2)CNC(OC(C)(C)C)=O | C12H14BrN3O2S
